US06784137B2
Methyl 4-amino-3-chloro-6-(6-hydroxy-3-pyridinyl)pyridine-2-carboxylate (0.30 g, 1.07 mmol) was suspended in neat dichlorophenylphosphine (2.5 mL, 1.84 mmol) and the mixture was heated to 50° C. for 1 hr. The volatiles were removed in vacuo and the residue purified by column chromatography (1:1, Hexanes/EtOAc) to give of methyl 4-amino-3-chloro-6-(6-chloro-3-pyridinyl)pyridine-2-carboxylate (0.11 g, 0.37 mmol).

reactant | Methyl 4-amino-3-chloro-6-(6-hydroxy-3-pyridinyl)pyridine-2-carboxylate | 1.07 mmol, 0.30 g | NC1=C(C(=NC(=C1)C=1C=NC(=CC1)O)C(=O)OC)Cl | C12H10ClN3O3
reactant | dichlorophenylphosphine | 1.84 mmol, 2.5 mL | ClP(C1=CC=CC=C1)Cl | C6H5Cl2P
product | methyl 4-amino-3-chloro-6-(6-chloro-3-pyridinyl)pyridine-2-carboxylate | 0.37 mmol, 0.11 g | NC1=C(C(=NC(=C1)C=1C=NC(=CC1)Cl)C(=O)OC)Cl | C12H9Cl2N3O2
